US07368578B2
A mixture of 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylic acid (0.25 g), 1-hydroxybenzotriazole ammonia complex (0.11 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.14 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 3 days. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxamide as colorless crystals (0.23 g, yield 92%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 160-161° C.

reactant | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylic acid | 0.25 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C28H25N3O7
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.14 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxamide | 0.23 g, yield 92% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)N)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C28H26N4O6
